US06727264B1
6-(3-CHLOROPHENYL)-1H-INDOLE:
Prepared by Procedure I and Scheme T using 6-bromo-1H-indole and 3-chlorophenylboronic acid: ESMS m/e: 227.9 (M+H)+.

reactant | 6-bromo-1H-indole | BrC1=CC=C2C=CNC2=C1 | C8H6BrN
reactant | 3-chlorophenylboronic acid | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
product | 6-(3-CHLOROPHENYL)-1H-INDOLE | ClC=1C=C(C=CC1)C1=CC=C2C=CNC2=C1 | C14H10ClN
